US09421205B2
(b) 3-((Trimethylsilyl)ethynyl)benzamide (I143)
3-Iodobenzamide (I142) (1.00 g, 4.05 mmol), bis(triphenylphosphine)palladium(II) chloride (0.142 g, 5 mol %), copper(I) iodide (0.077 g, 10 mol %), DMF (4 mL) and diisopropylamine (12 mL) were loaded into a microwave tube. The mixture was degassed for ten minutes with nitrogen, then trimethylsilylacetylene (0.69 mL, 4.9 mmol) was added and the resulting mixture heated under microwave irradiation at 120° C. for 15 minutes. The volatiles were evaporated under reduced pressure and the residue chromatographed (Biotage Isolera, 40 g silica cartridge, 0-100% ethyl acetate/petroleum benzine 40-60° C.) to give the title compound (I143) (0.569 g, 65% yield) as a brown solid; 1H NMR (400 MHz, CDCl3) δ 7.88 (td, J=1.8, 0.5 Hz, 1H), 7.78 (ddd, J=7.8, 1.8, 1.2 Hz, 1H), 7.63-7.59 (m, 1H), 7.40 (td, J=7.8, 0.5 Hz, 1H), 6.05 (br s, 1H), 5.67 (br s, 1H), 0.26 (s, 9H). LCMS Method C: rt 5.94 min, m/z 218.2 [M+H]+.

reactant | 3-Iodobenzamide | 4.05 mmol, 1.00 g | IC=1C=C(C(=O)N)C=CC1 | C7H6INO
reactant | diisopropylamine | 12 mL | C(C)(C)NC(C)C | C6H15N
reactant | trimethylsilylacetylene | 4.9 mmol, 0.69 mL | C[Si](C)(C)C#C | C5H10Si
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.142 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.077 g | [Cu]I
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 3-((Trimethylsilyl)ethynyl)benzamide | 0.569 g, 65% yield | C[Si](C)(C)C#CC=1C=C(C(=O)N)C=CC1 | C12H15NOSi
